US04853408
0.5 ml of a 38% potassium hydroxide solution was added with stirring at 30° C. under an inert atmosphere to a mixture of 0.132 g of indol-4-carboaldehyde, 0.1 ml of 2-hydroxy-acetophenone and 0.189 g of triethylbenzyl ammonium chloride in 2 ml of ethanol and after stirring at 30° for 23 hours, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried over a deshydrant and evaporated to dryness. The residue was chromatographed over silica and eluted with methylene chloride to obtain 159 mg of 3-(1H-indol-4-yl)-1-(2-hydroxy-phenyl)-2-propen-1-one melting at ≃164° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | indol-4-carboaldehyde | 0.132 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 2-hydroxy-acetophenone | 0.1 ml | OCC(=O)C1=CC=CC=C1 | C8H8O2
catalyst | triethylbenzyl ammonium chloride | 0.189 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(1H-indol-4-yl)-1-(2-hydroxy-phenyl)-2-propen-1-one | 159 mg | N1C=CC2=C(C=CC=C12)C=CC(=O)C1=C(C=CC=C1)O | C17H13NO2
